US06531491B1
To a stirred solution of 3-chloro-cyclohex-2-enone (3.00g, 23.0 mmol) and phenol (2.16 g, 23.0 mmol) in 25 mL of acetone was added powdered, anhydrous K2CO3 (3.81 g, 27.6 mmol). After refluxing for 18 h, the mixture was cooled and filtered. The filtrate was concentrated under reduced pressure and chromatographed on silica gel eluting with hexanes/EtOAc (4:1) to give 3-phenoxy-cyclohex-2-enone as a white solid: 1H NMR (CDCl3) δ 2.10 (quint, 2H, J=6.3 Hz), 2.40 (t, 2H, J=6.2 Hz), 2.68 (t, 2H, J=6.3 Hz), 5.14 (s, 1H), 7.05 (d, 2H, J=7.5 Hz), 7.26 (t, 1H, J=7.3 Hz), 7.41 (t, 2H, J=7.6 Hz).

reactant | 3-chloro-cyclohex-2-enone | 23.0 mmol, 3.00g | ClC1=CC(CCC1)=O | C6H7ClO
reactant | phenol | 23.0 mmol, 2.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 27.6 mmol, 3.81 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-phenoxy-cyclohex-2-enone | O(C1=CC=CC=C1)C1=CC(CCC1)=O | C12H12O2
